US04399296
5-(5-Fluoro-2-methoxyphenyl)oxazolidine-2,4-dione
By the procedure of Example 9, ethyl 1-(5-fluoro-2-methoxyphenyl)-1-hydroxymethanecarboximidate hydrochloride (9.9 g.) in 500 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(5-fluoro-2-methoxyphenyl)oxazolidine-2,4-dione (5.12 g., 60%; m.p. 186°-188° C.; m/e 225)

reactant | ethyl 1-(5-fluoro-2-methoxyphenyl)-1-hydroxymethanecarboximidate hydrochloride | 9.9 g | Cl.FC=1C=CC(=C(C1)C(C(OCC)=N)O)OC
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(5-Fluoro-2-methoxyphenyl)oxazolidine-2,4-dione | FC=1C=CC(=C(C1)C1C(NC(O1)=O)=O)OC | C10H8FNO4
